* NGSPICE file created from sky130_fd_bd_sram__openram_sp_cell_opt1a_dummy.ext - technology: sky130A

.subckt sky130_fd_bd_sram__openram_sp_cell_opt1a_dummy BL BR VGND VPWR WL VNB VPB
X0 a_174_54# WL a_174_54# VPB sky130_fd_pr__special_pfet_pass ad=0.035p pd=0.78u as=0p ps=0u w=0.07u l=0.095u
X1 a_174_212# a_16_182# VPWR VPB sky130_fd_pr__special_pfet_pass ad=0.035p pd=0.78u as=0.064p ps=1.14u w=0.14u l=0.15u
X2 VPWR a_16_104# a_174_54# VPB sky130_fd_pr__special_pfet_pass ad=0p pd=0u as=0p ps=0u w=0.14u l=0.15u
X3 a_38_212# a_16_182# VGND VNB sky130_fd_pr__special_nfet_latch ad=0p pd=0u as=0.0808p ps=1.28u w=0.21u l=0.15u
X4 a_174_212# a_0_262# a_174_212# VPB sky130_fd_pr__special_pfet_pass ad=0p pd=0u as=0p ps=0u w=0.07u l=0.095u
X5 a_38_54# WL BR VNB sky130_fd_pr__special_nfet_pass ad=0.04375p pd=0.92u as=0.0168p ps=0.52u w=0.14u l=0.15u
X6 VGND a_16_104# a_38_54# VNB sky130_fd_pr__special_nfet_latch ad=0p pd=0u as=0p ps=0u w=0.21u l=0.15u
X7 BL a_0_262# a_38_212# VNB sky130_fd_pr__special_nfet_pass ad=0.0168p pd=0.52u as=0.04375p ps=0.92u w=0.14u l=0.15u
.ends

